// comparator gold smoke testbench
// VINP steps from 0V to 0.9V at t≈1ns; VINN held at 0.45V.
// Check: out_p mean before t<2ns ≈ 0V; after t≥2ns ≈ 0.9V (delta > 0.2).
simulator lang=spectre
global 0

ahdl_include "comparator.va"

Vvdd  (vdd  0) vsource dc=0.9
Vvss  (vss  0) vsource dc=0.0
Vvinp (vinp 0) vsource type=pwl wave=[0 0.0  0.9n 0.0  1.1n 0.9  30n 0.9]
Vvinn (vinn 0) vsource dc=0.45

IDUT (vdd vss vinp vinn out_p) comparator

tran tran stop=30n maxstep=0.5n
save vinp vinn out_p
